US07060827B2
A suspension of 6-ethoxycarbonyl-N2,N4-bis(3-hydroxyphenyl)-5-nitro-2,4-pyrimidinediamine and 10% Pd/C (10% by weight) in ethanol was prepared and reacted in a Parr bottle under hydrogen gas (20 PSI) for 1 h. The reaction mixture was filtered through Celite. Purification by column chromatography gave 5-amino-6-ethoxycarbonyl-N2,N4-bis(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.30 (bs, 1H), 7.18–7.10 (m, 3H), 7.00 (t, 2H, J=8.1 Hz), 6.59–6.54 (m, 1H), 6.33 (dd, 1H, J=2.1 and 11.1 Hz), 4.39 (q, 2H, J=6.9 Hz), 1.43 (t, 3H, J=6.9 Hz); LCMS: ret. time: 19.24 min.; purity: 100%; MS (m/e): 382 (MH+).

reactant | 6-ethoxycarbonyl-N2,N4-bis(3-hydroxyphenyl)-5-nitro-2,4-pyrimidinediamine | C(C)OC(=O)C1=C(C(=NC(=N1)NC1=CC(=CC=C1)O)NC1=CC(=CC=C1)O)[N+](=O)[O-] | C19H17N5O6
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 5-amino-6-ethoxycarbonyl-N2,N4-bis(3-hydroxyphenyl)-2,4-pyrimidinediamine | NC=1C(=NC(=NC1C(=O)OCC)NC1=CC(=CC=C1)O)NC1=CC(=CC=C1)O | C19H19N5O4
